US05049669
A mixture of 10-[(2RS)-1-(N-ethyl-N-methylamino)-2-propyl]-2-phenothiazinecarbothioamide (2.1 g) and butylamine (8.5 cc) in absolute ethanol (30 cc) is saturated with hydrogen sulphide and heated for 16 hours to a temperature in the region of 100° C. After being cooled, the orange solution obtained is concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. The residual brown oil is purified by chromatography on a column (height: 4 cm; diameter: 3 cm) of silica gel (0.2-0.063 mm), eluting successively with methylene chloride (2 liters) and with a mixture (90:10 by volume) (1 liter) of methylene chloride and methanol and collecting 60-cc fractions. Fractions 36 to 39 are combined and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. The residual orange oil (1.8 g) is again purified by chromatography on a column (height: 25 cm; diameter: 4 cm) of silica gel (0.04-0.063 cm) under a slight excess pressure of nitrogen (40 kPa), eluting with a mixture (75:25 by volume) (1 liter) of ethyl acetate and cyclohexane and collecting 60-cc fractions. Fractions 5 to 12 are combined and concentrated to dryness under reduced pressure (30 mm Hg; 4 kPa) at 40° C. N-Butyl-10-[(2RS)-1-(N-ethyl-N-methylamino)-2-propyl]-2-phenothiazinecarbothioamide (1.25 g) is thereby obtained in the form of a yellow oil.

reactant | 10-[(2RS)-1-(N-ethyl-N-methylamino)-2-propyl]-2-phenothiazinecarbothioamide | 2.1 g | C(C)N(C)CC(C)N1C2=CC=CC=C2SC=2C=CC(=CC12)C(N)=S | C19H23N3S2
reactant | butylamine | 8.5 cc | C(CCC)N | C4H11N
reactant | hydrogen sulphide | S | H2S
solvent | ethanol | 30 cc | C(C)O | C2H6O
product | N-Butyl-10-[(2RS)-1-(N-ethyl-N-methylamino)-2-propyl]-2-phenothiazinecarbothioamide | 1.25 g | C(CCC)NC(=S)C1=CC=2N(C3=CC=CC=C3SC2C=C1)C(CN(C)CC)C | C23H31N3S2
